US05959161
The above-mentioned problems are resolved by the production method of this invention wherein citronellal is treated with aqueous sulfuric acid solution of 0.02 to 1.0 wt. % in concentration to produce para-menthane-3,8-diol. In case of recovering the produced para-menthane-3,8-diol, a method is preferably adopted, wherein after the reaction product is extracted with an aliphatic hydrocarbon solvent of 5 to 8 in carbon number, the extract is cooled down at temperature higher than the melting point of said aliphatic hydrocarbon solvent and of -10° C. or less to crystallize para-menthane-3,8-diol.

reactant | citronellal | CC(C)=CCCC(C)CC=O | C10H18O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | para-menthane-3,8-diol | C1(CC(C(CC1)C(C)(C)O)O)C | C10H20O2
